US04070366
2,4-Dimethyl-3-acetyl-5-isopropyl-pyrrole
2,4-Dimethyl-3-acetyl-pyrrole (548 mg), 1 ml of acetone and 10 gm of amalgamated zinc (20 mesh) were added to a solution of 1 ml of concentrated sulfuric acid in 20 ml of acetic acid. The mixture was stirred for 1 hour at 45° C. The liquid was decanted from the zinc into 100 ml of water forming a solution from which the crude product separated at 15° C. (174 mg, m.p. 164°-169° C. after the usual solid phase changes). For analysis, it was extracted into ether (thimble) then recrystallized from 3 ml of aqueous ethanol as nearly colourless elongated prisms, m.p. 170°-172° C. (171°-173° when mixed with the product of Example 8) after a solid phase change at 142°. Anal. Calc. for C11H17NO: C, 73.70; H, 9.56; N, 7.81. Found: C, 73.60; H, 9.40; N, 7.92.

reactant | 2,4-Dimethyl-3-acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | acetone | 1 ml | CC(=O)C | C3H6O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 10 gm | [Zn] | Zn
product | 2,4-Dimethyl-3-acetyl-5-isopropyl-pyrrole | CC=1NC(=C(C1C(C)=O)C)C(C)C | C11H17NO
